US07547691B2
2-{5-Methyl-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[3-(4-ethyl-1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-[5-methyl-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride and isolated as yellow foam. ES+(m/z) 452 [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(4-ethyl-1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2(CCN(CC2)C)CC
reactant | 2-[5-methyl-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride | Cl.Cl.CN(C(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCC2CCNCC2)C1)C
product | 2-{5-Methyl-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride | Cl.Cl.CN(C(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCC2CCN(CC2)C)C1)C | InChI=1S/C25H33N5OS.2ClH/c1-17-16-27-25(26-11-5-6-18-9-12-30(4)13-10-18)28-23(17)22-14-19-7-8-20(15-21(19)32-22)24(31)29(2)3;;/h7-8,14-16,18H,5-6,9-13H2,1-4H3,(H,26,27,28);2*1H
